US08633173B2
2-{6-[8-(4-Chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-3,4-dihydro-1H-isoquinolin-2-yl}-N,N-dimethyl-acetamide was prepared from [8-(4-chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amine (0.077 g, 0.190 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.029 mL, 0.284 mmol) in a manner analogous to Example 313 to give product (0.015 g, 16%). MP=103-106° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.53 (s, 1H), 8.78 (d, 1H), 7.58 (m, 2H), 7.42 (m, 2H), 7.25 (s, 1H), 7.15 (d, 1H), 7.05 (t, 1H), 6.92 (d, 1H), 3.78 (s, 3H), 3.54 (s, 2H), 3.28 (s, 2H), 3.05 (s, 3H), 2.85 (s, 3H), 2.78 (m, 2H), 2.70 (m, 2H): MS=491 (MH)+.

reactant | [8-(4-chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amine | 0.190 mmol, 0.077 g | ClC1=CC(=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C1CCNCC1=CC2)OC | C22H20ClN5O
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.284 mmol, 0.029 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-{6-[8-(4-Chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-3,4-dihydro-1H-isoquinolin-2-yl}-N,N-dimethyl-acetamide | ClC1=CC(=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C1CCN(CC1=CC2)CC(=O)N(C)C)OC | C26H27ClN6O2
